US08580794B2
tert-butyl 2-((2-chloro-4-sulfamoylphenylamino)methyl)morpholine-4-carboxylate
A solution of 3-chloro-4-fluorobenzenesulfonamide (1.0 g), tert-butyl 2-(aminomethyl)morpholine-4-carboxylate (1.135 g) and N-ethyl-N-isopropylpropan-2-amine (1.246 mL) in dimethylsulfoxide (15 mL) was stirred at 115° C. for 72 hours. The mixture was concentrated, and the residue was purified on a silica gel column eluting with 60% ethyl acetate to provide the title compound.

reactant | 3-chloro-4-fluorobenzenesulfonamide | 1.0 g | ClC=1C=C(C=CC1F)S(=O)(=O)N | C6H5ClFNO2S
reactant | tert-butyl 2-(aminomethyl)morpholine-4-carboxylate | 1.135 g | NCC1CN(CCO1)C(=O)OC(C)(C)C | C10H20N2O3
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.246 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylsulfoxide | 15 mL | CS(=O)C | C2H6OS
product | tert-butyl 2-((2-chloro-4-sulfamoylphenylamino)methyl)morpholine-4-carboxylate | ClC1=C(C=CC(=C1)S(N)(=O)=O)NCC1CN(CCO1)C(=O)OC(C)(C)C | C16H24ClN3O5S
